US08492582B2
Under ice-cooling, 60% sodium hydride (43 mg) was added to a tetrahydrofuran (5.0 mL) solution of tert-butyl 4-(3-(tert-butoxycarbonylamino)phenyl)-2-nitrobenzoate (0.30 g), followed by stirring at the same temperature for 20 minutes. Ethyl iodide (0.087 mL) was added to the reaction mixture under ice-cooling, followed by stirring at the same temperature for 30 minutes and then at room temperature for 2 hours and 40 minutes. N,N-Dimethylformamide (3.0 mL) was added to the reaction mixture at room temperature, and then 60% sodium hydride (14 mg) and ethyl iodide (0.058 mL) were sequentially added thereto under ice-cooling, followed by stirring at room temperature for 1 hour. Water and diethyl ether were added to the reaction mixture, and the organic layer was separated, washed with a 10% aqueous solution of citric acid and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography [eluent: 85-60% hexane/ethyl acetate] to obtain 0.16 g of tert-butyl 4-(3-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-nitrobenzoate as a colorless oily substance.

reactant | sodium hydride | 43 mg | [H-].[Na+]
reactant | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
reactant | tert-butyl 4-(3-(tert-butoxycarbonylamino)phenyl)-2-nitrobenzoate | 0.30 g | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C22H26N2O6
reactant | Ethyl iodide | 0.087 mL | C(C)I | C2H5I
reactant | sodium hydride | 14 mg | [H-].[Na+]
reactant | ethyl iodide | 0.058 mL | C(C)I | C2H5I
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | N,N-Dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-(3-((tert-butoxycarbonyl)(ethyl)amino)phenyl)-2-nitrobenzoate | 0.16 g | C(C)(C)(C)OC(=O)N(C=1C=C(C=CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-])CC | C24H30N2O6
